US04777185
1-(4-ethoxyphenyl)-2,2-difluorocyclopropane-1-methanol
To 1.0 g of lithium aluminium hydride in 120 ml of dry ether, at room temperature is added dropwise 5.4 g (0.02 moles) of ethyl-1-(4-ethoxyphenyl)-2,2-difluorocyclopropane-1-carboxylate in 20 ml of ether. The reaction mixture is stirred for 1 hr after which 1.0 ml of water 1.0 ml of 15% NaOH, followed by 3.0 ml of water are added. The solid precipitate is filtered off, washed with ether and the combined filtrates dried and concentrated under reduced pressure to yield (4.2 g) a colourless oil; nD 1.5129.

reactant | lithium aluminium hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl-1-(4-ethoxyphenyl)-2,2-difluorocyclopropane-1-carboxylate | 0.02 moles, 5.4 g | C(C)OC(=O)C1(C(C1)(F)F)C1=CC=C(C=C1)OCC | C14H16F2O3
reactant | water | 1.0 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
reactant | water | 3.0 ml | O | H2O
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-(4-ethoxyphenyl)-2,2-difluorocyclopropane-1-methanol | 4.2 g | C(C)OC1=CC=C(C=C1)C1(C(C1)(F)F)CO | C12H14F2O2
